US05726172
The 2,4-dimethyl-3-chloromethylpyridine (21.5 g, 138 mmol) was dissolved in CHCl3 (800 mL) and cooled under nitrogen to 0° C. and m-chloroperbenzoic acid (55%, 35 g) was added in small portions. The reaction was stirred for 4 hours. The solution was extracted twice with saturated aqueous sodium bicarbonate (500 mL). The organic phase was dried with MgSO4, filtered and the solvent removed under reduced pressure. The residue was chromatographed on silica gel packed in 98:2 CH2 Cl2 :MeOH and eluted with same. The appropriate fractions were combined and the solvent was removed under reduced pressure the give the desired 2,4-dimethyl-3-chloromethylpyridine-N-oxide.

reactant | 2,4-dimethyl-3-chloromethylpyridine | 138 mmol, 21.5 g | CC1=NC=CC(=C1CCl)C | C8H10ClN
reactant | m-chloroperbenzoic acid | 35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 800 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,4-dimethyl-3-chloromethylpyridine-N-oxide | CC1=[N+](C=CC(=C1CCl)C)[O-] | C8H10ClNO
